US03972886
A mixture of ethyk 3-benzylthio-4-chloro-5-sulfamylbenzoate (0.77 g), thiophenol (0.36 ml), and dry ethanol (15 ml) containing 3millimoles of sodium thiophenolate is refulxed for 20 hours. After cooling the precipitate is collected by filtration to yield ethyl 3-benzylthio-4-phenylthio-5-sulfamylbenzoate with a melting point of 151° - 152°C.

reactant | 3-benzylthio-4-chloro-5-sulfamylbenzoate | 0.77 g | C(C1=CC=CC=C1)SC=1C=C(C(=O)[O-])C=C(C1Cl)S(N)(=O)=O
reactant | thiophenol | 0.36 ml | C1(=CC=CC=C1)S | C6H6S
reactant | sodium thiophenolate | 3millimoles | C1(=CC=CC=C1)[S-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | ethyl 3-benzylthio-4-phenylthio-5-sulfamylbenzoate | C(C1=CC=CC=C1)SC=1C=C(C(=O)OCC)C=C(C1SC1=CC=CC=C1)S(N)(=O)=O | C22H21NO4S3
